US05789623
Preparation of 2'-hydroxy-2-[(2-methoxyphenylphenyl)phosphino]biphenyl
23.5 g (100 mmol) of 6-chloro-6H-dibenz[c,e][1,2]oxa-phosphorine in 50 ml of anhydrous tetrahydrofuran are introduced, in an argon atmosphere with stirring, and a solution of 100 mmol of 2-methoxyphenylmagnesium bromide in tetrahydrofuran is added dropwise at -10° C. The mixture is slowly heated to 25° C. and stirred for 3 hours. A solution of 100 mmol of phenylmagnesium bromide in 150 ml of tetrahydrofuran is added dropwise and the mixture is then stirred for 5 hours at 65° C. The mixture is cooled to room temperature and 100 ml of water are added. The mixture is neutralized with dilute hydrochloric acid, the organic phase is separated off, dried with sodium sulfate and concentrated under reduced pressure. 38.0 g of colorless oil are obtained. By crystallization with methanol/water, 10:1, 32.7 g (86%) of colorless crystals having melting point 137° to 139° C. are obtained.

reactant | 6-chloro-6H-dibenz[c,e][1,2]oxa-phosphorine | 100 mmol, 23.5 g | ClP1OC2=C(C3=C1C=CC=C3)C=CC=C2 | C12H8ClOP
reactant | 2-methoxyphenylmagnesium bromide | 100 mmol | COC1=C(C=CC=C1)[Mg]Br
reactant | phenylmagnesium bromide | 100 mmol | C1(=CC=CC=C1)[Mg]Br
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 2'-hydroxy-2-[(2-methoxyphenylphenyl)phosphino]biphenyl | 38.0 g | OC1=C(C=CC=C1)C1=C(C=CC=C1)PC1=C(C=CC=C1)C1=C(C=CC=C1)OC | C25H21O2P
